US07166604B2
(b) Preparation of 2-chloro-6-{2-[1-(6-methyl-3-pyridazinyl)-4-piperidinyl]ethoxy}-quinoxaline
A mixture of 2-chloro-6-hydroxyquinoxaline (52 mg, 288 μmol), 3-[-4-(2-chloroethyl)-1-piperidinyl]-6-methyl pyridazine (76 mg, 317 μmol), potassium iodide (53 mg, 317 μmol) and potassium carbonate (199 mg, 1.44 mmol) in anhydrous dimethylformamide (2 ml) was heated at 90° under an Argon atmosphere for 2 days. Tlc (silica; ethyl acetate) showed new polar material. Removal of the solvent under high vacuum and then chromatography on silica (5 g; eluent: 30% hexane in ethyl acetate) gave the product as a white solid 68 mg (61%).

reactant | 2-chloro-6-hydroxyquinoxaline | 288 μmol, 52 mg | ClC1=NC2=CC=C(C=C2N=C1)O | C8H5ClN2O
reactant | 3-[-4-(2-chloroethyl)-1-piperidinyl]-6-methyl pyridazine | 317 μmol, 76 mg | ClCCC1CCN(CC1)C=1N=NC(=CC1)C | C12H18ClN3
reactant | potassium iodide | 317 μmol, 53 mg | [I-].[K+]
reactant | potassium carbonate | 1.44 mmol, 199 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-6-{2-[1-(6-methyl-3-pyridazinyl)-4-piperidinyl]ethoxy}-quinoxaline | 68 mg, 61% | ClC1=NC2=CC=C(C=C2N=C1)OCCC1CCN(CC1)C=1N=NC(=CC1)C | C20H22ClN5O
